### PR TITLE
[Merged by Bors] - fix: replace SMul.smul use in UpperHalfPlane

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Modular.lean [hunk 1]
```diff
@@ -390,7 +386,8 @@ theorem im_lt_im_S_smul (h : normSq z < 1) : z.im < (S • z).im := by
     nlinarith
   convert this
   simp only [SpecialLinearGroup.im_smul_eq_div_normSq]
-  field_simp [normSq_denom_ne_zero, normSq_ne_zero, S, denom]
+  -- field_simp [normSq_denom_ne_zero, normSq_ne_zero, S, denom]
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/Modular.lean:389]:
```suggestion
```

**Review by kbuzzard — APPROVED** [review]
This looks great! Thanks!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
